US08278318B2
Step 5b: 2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
To a solution of benzyl 2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate (18.0 g, 35.9 mmol) in methanol (150 mL) was added 10% palladium on carbon (Aldrich, cat #: 520888) (1.8 g, 1.5 mmol) under the atmosphere of nitrogen. The reaction mixture was hydrogenated and shaken at 50 psi for 20 h. The reaction mixture was filtered through a pad of Celite and then washed with methanol (300 mL). The filtrate was concentrated under reduced pressure to give the desired product as a white solid in quantitative yield.

reactant | benzyl 2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 35.9 mmol, 18.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C(=O)OCC2=CC=CC=C2)=O | C28H44N2O4Si
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium on carbon | 1.5 mmol, 1.8 g | [Pd] | Pd
product | 2-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | quantitative yield | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CNCCC2)=O | C20H38N2O2Si
